US07504403B2
7-Hydroxy-2-phenyl-9-[2-(1-phenyl-ethylamino)-pyrimidin-4-yl]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
A solution of 7-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-9-[2-(1-phenyl-ethylamino)-pyrimidin-4-yl]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (20 mg) in MeOH (3 mL)-DCM (1 mL) was treated with HCl (conc. 1.5 mL). After the mixture was stirred at room temperature for 16 h, it was neutralized with NaHCO3 (aq) and then extracted with DCM (3×). The organic layer was dried (Na2SO4) and concentrated to a solid that was purified on silica (1-3% 2N NH3—MeOH in DCM) to provide the product as a white solid. 1HNMR (400 MHz, DMSO-d6): 8.12 (d, J 5.6,1 H), 7.94 (m, 2H), 7.70 (m, 1H, NH), 7.44 (m, 3H), 7.32 (t, J 7.2, 2H), 19 (m, 1H), 708 (d, J 5.6,1H), 5.50 (ds, 1H, OH), 5.01 (m, 1H, ), 4.39 (b, 1H), 4.22 (bt, 1.5 H), 3.89 (d, J 4.8,1H), 3.68 (m, 0.5H), 3.3 (b, 1H), 1.45 (d, J 7.2, 3H). M+1: 441.

reactant | 7-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-9-[2-(1-phenyl-ethylamino)-pyrimidin-4-yl]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 20 mg | C(C)(C)(C)[Si](OC1CN(C=2N(C(C=C(N2)C2=CC=CC=C2)=O)C1)C1=NC(=NC=C1)NC(C)C1=CC=CC=C1)(C)C | C31H38N6O2Si
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 1.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 7-Hydroxy-2-phenyl-9-[2-(1-phenyl-ethylamino)-pyrimidin-4-yl]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | OC1CN(C=2N(C(C=C(N2)C2=CC=CC=C2)=O)C1)C1=NC(=NC=C1)NC(C)C1=CC=CC=C1 | C25H24N6O2
